US09145414B2
A solution of m-CPBA (65 mg) in chloroform (1.5 ml) was added to a solution of ethyl 5-(benzo[b]thiophen-4-ylamino)-3-(methylthio)-1,2,4-triazine-6-carboxylate obtained in the above-described Step 1 (33 mg) in chloroform (1.5 ml), the reaction solution was stirred at room temperature for 10 minutes. Thereafter, tert-butyl((1S,2R)-2-aminocyclohexyl)carbamate (60 mg) and diisopropylethylamine (0.10 ml) were added, and then the reaction solution was stirred at room temperature for 3 hours. The reaction solution was diluted with ethyl acetate and then washed successively with an aqueous sodium bicarbonate solution and a saturated saline solution. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum, and then the resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain ethyl 5-(benzo[b]thiophen-4-ylamino)-3-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-1,2,4-triazine-6-carboxylate.

reactant | m-CPBA | 65 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | ethyl 5-(benzo[b]thiophen-4-ylamino)-3-(methylthio)-1,2,4-triazine-6-carboxylate | S1C2=C(C=C1)C(=CC=C2)NC=2N=C(N=NC2C(=O)OCC)SC | C15H14N4O2S2
reactant | tert-butyl((1S,2R)-2-aminocyclohexyl)carbamate | 60 mg | C(C)(C)(C)OC(N[C@@H]1[C@@H](CCCC1)N)=O | C11H22N2O2
reactant | diisopropylethylamine | 0.10 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | chloroform | 1.5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1.5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 5-(benzo[b]thiophen-4-ylamino)-3-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-1,2,4-triazine-6-carboxylate | S1C2=C(C=C1)C(=CC=C2)NC=2N=C(N=NC2C(=O)OCC)N[C@H]2[C@H](CCCC2)NC(=O)OC(C)(C)C | C25H32N6O4S
